US07919498B2
To a solution of 5-chloro-2-(2-(trifluoromethyl)phenyl)quinoline-3-carbaldehyde (2.1673 g, 6.456 mmol) in 32 mL of THF at 0° C. was added sodium borohydride (0.3664 g, 9.684 mmol) and the mixture was stirred at 0° C. After 1 hr at 0° C., the mixture was partitioned between EtOAc (100 mL) and H2O (100 mL), and the organic layer was washed with brine (50 mL×3), dried over Na2SO4, filtered, and concentrated under reduced pressure to give (5-chloro-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methanol as a yellow syrup: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.68-8.73 (1 H, m), 7.96-8.02 (1 H, m), 7.90-7.95 (1 H, m), 7.83-7.87 (1 H, m), 7.68-7.83 (3 H, m), 7.50-7.58 (1 H, m), 5.63 (1 H, t, J=5.3 Hz), 4.36 (2 H, br. s.); LC-MS (ESI) m/z 338.0 [M+H]+. The product was carried on crude without purification for the next step.

reactant | 5-chloro-2-(2-(trifluoromethyl)phenyl)quinoline-3-carbaldehyde | 6.456 mmol, 2.1673 g | ClC1=C2C=C(C(=NC2=CC=C1)C1=C(C=CC=C1)C(F)(F)F)C=O | C17H9ClF3NO
reactant | sodium borohydride | 9.684 mmol, 0.3664 g | [BH4-].[Na+]
solvent | THF | 32 mL | C1CCOC1 | C4H8O
product | (5-chloro-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methanol | ClC1=C2C=C(C(=NC2=CC=C1)C1=C(C=CC=C1)C(F)(F)F)CO | C17H11ClF3NO
